US08912186B2
4-Iodo-1,2-phenylenediamine (0.47 g) and 3-(biphenyl-4-yl)glutaric anhydride (0.53 g) were dissolved in dichloromethane (5 ml) with heating. The dark solution was stirred at rt for 1 h. The precipitate formed was collected by suction filtration, washed with dichloromethane, and dried in vacuo to give a mixture of regioisomeric amides (0.74 g) as light brown solid. This solid was dissolved in 1,4-dioxane (1 ml) with heating. 4M HCl in 1,4-dioxane (3 ml) was added and the solution was heated to reflux for 1 h. All volatiles were removed at the water aspirator and the amorphous residue is fractionally crystallised to provide 3-(biphenyl-4-yl)-4-(5-iodo-2-benzimidazolyl)butanoic acid HCl (0.43 g) as off-white solid.

reactant | 4-Iodo-1,2-phenylenediamine | 0.47 g | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(biphenyl-4-yl)glutaric anhydride | 0.53 g | C1(=CC=C(C=C1)C1CC(=O)OC(C1)=O)C1=CC=CC=C1 | C17H14O3
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(biphenyl-4-yl)-4-(5-iodo-2-benzimidazolyl)butanoic acid HCl | 0.43 g | Cl.C1(=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)I)C2=CC=CC=C2 | InChI=1S/C23H19IN2O2.ClH/c24-19-10-11-20-21(14-19)26-22(25-20)12-18(13-23(27)28)17-8-6-16(7-9-17)15-4-2-1-3-5-15;/h1-11,14,18H,12-13H2,(H,25,26)(H,27,28);1H
